.SUBCKT irfru024n 1 2 3

**************************************

*      Model Generated by MODPEX     *

*Copyright(c) Symmetry Design Systems*

*         All Rights Reserved        *

*    UNPUBLISHED LICENSED SOFTWARE   *

*   Contains Proprietary Information *

*      Which is The Property of      *

*     SYMMETRY OR ITS LICENSORS      *

*Commercial Use or Resale Restricted *

*   by Symmetry License Agreement    *

**************************************

* Model generated on Apr 24, 96

* Model format: SPICE3

* Symmetry POWER MOS Model (Version 1.0)

* External Node Designations

* Node 1 -> Drain

* Node 2 -> Gate

* Node 3 -> Source

M1 9 7 8 8 MM L=100u W=100u

* Default values used in MM:

* The voltage-dependent capacitances are

* not included. Other default values are:

*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0

.MODEL MM NMOS LEVEL=1 IS=1e-32

+VTO=3.6319 LAMBDA=0 KP=8.99346

+CGSO=3.09714e-06 CGDO=1.6185e-07

RS 8 3 0.0409355

D1 3 1 MD

.MODEL MD D IS=1.43387e-10 RS=0.0112766 N=1.28803 BV=55

+IBV=0.00025 EG=1.2 XTI=2.96465 TT=0

+CJO=2.96476e-10 VJ=0.50803 M=0.3 FC=0.5

RDS 3 1 2.2e+06

RD 9 1 0.0001

RG 2 7 2.4575

D2 4 5 MD1

* Default values used in MD1:

*   RS=0 EG=1.11 XTI=3.0 TT=0

*   BV=infinite IBV=1mA

.MODEL MD1 D IS=1e-32 N=50

+CJO=4.37817e-10 VJ=0.5 M=0.578699 FC=1e-08

D3 0 5 MD2

* Default values used in MD2:

*   EG=1.11 XTI=3.0 TT=0 CJO=0

*   BV=infinite IBV=1mA

.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06

RL 5 10 1

FI2 7 9 VFI2 -1

VFI2 4 0 0

EV16 10 0 9 7 1

CAP 11 10 6.81971e-10

FI1 7 9 VFI1 -1

VFI1 11 6 0

RCAP 6 10 1

D4 0 6 MD3

* Default values used in MD3:

*   EG=1.11 XTI=3.0 TT=0 CJO=0

*   RS=0 BV=infinite IBV=1mA

.MODEL MD3 D IS=1e-10 N=0.4

.ENDS

